US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(4-methyl-1H-indol-5-yl)-propionic acid ethyl ester [preparation 10h)] was reacted with 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole to give rac-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-4-methyl-1H-indol-5-yl}-2-ethoxy-propionic acid as yellow solid.

reactant | rac-2-ethoxy-3-(4-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C(=C2C=CNC2=CC1)C)OCC)=O | C16H21NO3
reactant | 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C11H9Cl2NO
product | rac-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-4-methyl-1H-indol-5-yl}-2-ethoxy-propionic acid | ClC1=C(C=CC=C1)C=1OC(=C(N1)CN1C=CC2=C(C(=CC=C12)CC(C(=O)O)OCC)C)C | C25H25ClN2O4
